US09167821B2
4-(4-Formyl-1,3-thiazol-2-yl)piperidinium chloride
To tert-butyl 4-(4-formyl-1,3-thiazol-2-yl)piperidine-1-carboxylate (10 g) was added dropwise, at 0° C., a 4 molar solution of hydrogen chloride in 1,4-dioxane (100 ml). The reaction mixture was stirred at 0° C. and then gradually warmed to room temperature. After stirring overnight, the solvent and excess hydrogen chloride were removed. This gave 4-(4-formyl-1,3-thiazol-2-yl)piperidinium chloride (9 g).

reactant | tert-butyl 4-(4-formyl-1,3-thiazol-2-yl)piperidine-1-carboxylate | 10 g | C(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H20N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Formyl-1,3-thiazol-2-yl)piperidinium chloride | [Cl-].C(=O)C=1N=C(SC1)C1CC[NH2+]CC1 | InChI=1S/C9H12N2OS.ClH/c12-5-8-6-13-9(11-8)7-1-3-10-4-2-7;/h5-7,10H,1-4H2;1H
